US08895544B2
2-Fluoro-4-[3-(5-quinolin-3-ylmethyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-d]pyridin-2-yl)-1H-indazol-6-yl]-5-(2,2,2-trifluoro-ethyl)-phenol
The title compound was prepared from 2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-5-(2,2,2-trifluoro-ethyl)-phenol (100 mg, 0.21 mmol) and quinoline-3-carbaldehyde (72.9 mg, 0.46 mmol) using the method of Example 51. The crude material was purified initially over silica and finally by Prep TLC (Mobile Phase: 10% MeOH-DCM) to afford the title compound as an off white solid in 27.8% yield, 34 mg.

reactant | 2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-5-(2,2,2-trifluoro-ethyl)-phenol | 0.21 mmol, 100 mg | FC1=C(C=C(C(=C1)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CNCC2)N1)CC(F)(F)F)O | C21H17F4N5O
reactant | quinoline-3-carbaldehyde | 0.46 mmol, 72.9 mg | N1=CC(=CC2=CC=CC=C12)C=O | C10H7NO
product | 2-Fluoro-4-[3-(5-quinolin-3-ylmethyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-d]pyridin-2-yl)-1H-indazol-6-yl]-5-(2,2,2-trifluoro-ethyl)-phenol | FC1=C(C=C(C(=C1)C1=CC=C2C(=NNC2=C1)C1=NC2=C(CCN(C2)CC=2C=NC3=CC=CC=C3C2)N1)CC(F)(F)F)O | C31H24F4N6O
